US03971819
A. 4-isopropylamino-3-nitro-5-sulphamyl-benzoic acid
Isopropylamine (120 ml) and water (8 ml) were added to 4-chloro-3-nitro-5-sulphamyl-benzoic acid (22.4 g), while cooling. Then the reaction mixture was stirred for 5 days at room temperature. After evaporation in vacuo, the residue was triturated with 4N hydrochloric acid, after which the resulting 4-isopropylamino-3-nitro-5-sulphamyl-benzoic acid was collected by suction. After recrystallization from aqueous ethanol, the acid was obtained with a melting point of 206°C (decomp.).

reactant | Isopropylamine | 120 ml | C(C)(C)N | C3H9N
reactant | 4-chloro-3-nitro-5-sulphamyl-benzoic acid | 22.4 g | ClC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C7H5ClN2O6S
solvent | water | 8 ml | O | H2O
product | 4-isopropylamino-3-nitro-5-sulphamyl-benzoic acid | C(C)(C)NC1=C(C=C(C(=O)O)C=C1S(N)(=O)=O)[N+](=O)[O-] | C10H13N3O6S
